US07476742B2
To a crude mixture of ethyl 4-(benzoylamino)-3-oxopentanoate (0.6 g, 2.28 mmol) in DMF (4 mL) at rt was added POCl3(1.04 g, 6.84 mmol). The resulting solution was heated at 90° C. for 1 h, then cooled down to rt, and poured into ice for 30 minutes. The aqueous solution was carefully added to a saturated aqueous solution of NaHCO3. Phases were separated with EtOAc and the combined organic extracts were dried over MgSO4, and the solvent removed under reduced pressure. The crude material was purified on Biotage small column using a solvent gradient of 0 to 50% EtOAc/Hexane. Gave ethyl (4-methyl-2-phenyl-1,3-oxazol-5-yl)acetate (0.269 g 48% yield) as yellowish oil. ES-MS m/z 246.2 ((MH)+); HPLC RT (min) 2.77; 1H NMR (CDCl3) δ 8.01-7.98 (m, 2H), 7.45-7.41 (m, 3H), 4.20 (q, 2H), 3.71 (s, 2H), 2.21 (s, 3H), 1.28 (t, 3H).

reactant | ethyl 4-(benzoylamino)-3-oxopentanoate | 2.28 mmol, 0.6 g | C(C1=CC=CC=C1)(=O)NC(C(CC(=O)OCC)=O)C | C14H17NO4
reactant | POCl3 | 6.84 mmol, 1.04 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | ethyl (4-methyl-2-phenyl-1,3-oxazol-5-yl)acetate | 0.269 g, 48% yield | CC=1N=C(OC1CC(=O)OCC)C1=CC=CC=C1 | C14H15NO3
